* Z:\mnt\design.r\spice\examples\1478.asc
V1 IN 0 5
V2 N001 0 5
Iload OUT 0 0
XU1 OUT IN IN N001 0 IN IN LTC1477
.dc Iload 0 1.5 10m
.lib LTC2.lib
.backanno
.end
